US07820665B2
Step 2. 2-(5-bromo-2-(tosylimino)pyridin-1(2H)-yl)acetamide
To a 250 mL round-bottomed flask was added N-(5-bromopyridin-2-yl)-4-methylbenzenesulfonamide (10.0 g, 31 mmol), DMF (60 mL), N,N-diisopropylethylamine (6.4 mL, 37 mmol) and 2-bromoacetamide (5.1 g, 37 mmol, Aldrich, St. Louis, Mo.). The mixture was stirred at 25° C. for 1 day. The mixture was poured into water (600 mL) and the solution was stirred for 1 h. The solution was filtered and the filtercake was washed with water and then dried in vacuo to afford the title compound as a white solid (10.2 g, 87%). MS (ESI, positive ion) m/z: 384 (M(79Br)+1).

reactant | N-(5-bromopyridin-2-yl)-4-methylbenzenesulfonamide | 31 mmol, 10.0 g | BrC=1C=CC(=NC1)NS(=O)(=O)C1=CC=C(C=C1)C | C12H11BrN2O2S
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
reactant | N,N-diisopropylethylamine | 37 mmol, 6.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-bromoacetamide | 37 mmol, 5.1 g | BrCC(=O)N | C2H4BrNO
solvent | water | 600 mL | O | H2O
product | 2-(5-bromo-2-(tosylimino)pyridin-1(2H)-yl)acetamide | 10.2 g, 87% | BrC=1C=CC(N(C1)CC(=O)N)=NS(=O)(=O)C1=CC=C(C)C=C1 | C14H14BrN3O3S
